US08044206B2
84 mg of 1H-imidazole and 142 mg of potassium carbonate were added to a solution of 300 mg of 1-(chloroacetyl)-4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine in 5 ml of acetonitrile, followed by heating under reflux for 3 hours. After cooling, saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, followed by extraction with chloroform. The organic layer was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform-methanol-ammonia water) to give 314 mg of 4-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-(1H-imidazol-1-ylacetyl)piperidine as yellow crystals. A portion of 288 mg from the crystals was dissolved in 2 ml of ethanol and 334 μl of 4N hydrochloric acid-ethyl acetate was added to the solution, followed by concentrating under reduced pressure. The residue was crystallized from ethanol-diethyl ether and the crystals were collected by filtration. The crystals were then washed with diethyl ether. The crystals were recrystallized from ethanol-diethyl ether to give 188 mg of 4-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-(1H-imidazol-1-ylacetyl)piperidine monohydrochloride.

reactant | 1H-imidazole | 84 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 142 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloroacetyl)-4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidine | 300 mg | ClCC(=O)N1CCC(CC1)\C=C\C1=C(C=CC=C1C)C | C17H22ClNO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-(1H-imidazol-1-ylacetyl)piperidine | 314 mg | CC1=C(C(=CC=C1)C)/C=C/C1CCN(CC1)C(CN1C=NC=C1)=O | C20H25N3O
